US07994317B2
Step 2: Preparation of cis-4-({4-(methylamino)-6-[(phenylmethy)amino]-2-pyrimidinyl}amino)-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide
To a solution of cis-4-{[4-chloro-6-(methylamino)-2-pyrimidinyl]amino}-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide (50.0 mg, 0.11 mmol) and benzylamine (59.0 mg, 0.55 mmol) in 2-propanol (3 mL) was added one drop of concentrated HCl. The mixture was irradiated in the microwave for 3 hours at 170° C., at which time LCMS indicated the formation of the desired product. The crude reaction mixture was filtered and purified directly by preparative HPLC (gradient; 30-80% CH3CN:H2O (0.1% TFA)), to afford the title compound (30 mg, 0.58 mmol, 52%). MS (ES+) m/e 513 [M+H]+.

reactant | cis-4-{[4-chloro-6-(methylamino)-2-pyrimidinyl]amino}-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide | 0.11 mmol, 50.0 mg | ClC1=NC(=NC(=C1)NC)N[C@H]1CC[C@H](CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C20H23ClF3N5O
reactant | benzylamine | 0.55 mmol, 59.0 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
catalyst | HCl | one drop | Cl | ClH
product | cis-4-({4-(methylamino)-6-[(phenylmethy)amino]-2-pyrimidinyl}amino)-N-{[2-(trifluoromethyl)phenyl]methyl}cyclohexanecarboxamide | CNC1=NC(=NC(=C1)NCC1=CC=CC=C1)N[C@H]1CC[C@H](CC1)C(=O)NCC1=C(C=CC=C1)C(F)(F)F | C27H31F3N6O
